US04751244
Step A: 3-(2,3-dichloro-4-formylphenoxy)propionic acid
2,3-dichloro-4-hydroxybenzaldehyde (38.2 g., 0.2 mole) is dissolved in a 10% sodium hydroxide solution (200 ml.). The solution is heated to boiling and β-propiolactone (144 g., 2.0 moles) is added dropwise at such a rate as to keep the solution boiling. During the addition 10% sodium hydroxide solution is added in portions to maintain an alkaline mixture. Then the solution is cooled and acidified. The precipitated material is dissolved in ether and the product is extracted into a 5% sodium bicarbonate solution. Acidification of the aqueous solution precipitates 3-(2,3-dichloro-4-formylphenoxy)propionic acid, which is purified by recrystallization from ethyl acetate.

reactant | 2,3-dichloro-4-hydroxybenzaldehyde | 0.2 mole, 38.2 g | ClC1=C(C=O)C=CC(=C1Cl)O | C7H4Cl2O2
reactant | β-propiolactone | 2.0 moles, 144 g | C1(CCO1)=O | C3H4O2
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 3-(2,3-dichloro-4-formylphenoxy)propionic acid | ClC1=C(OCCC(=O)O)C=CC(=C1Cl)C=O | C10H8Cl2O4
